US05559106
G. 3-[(Diethoxyphosphoryl)methyl]benzo[f]-1,2,4-triazolo[4,3-a]quinoxalin-12(11H)-one
A solution of 3-(2-diethoxyphosphorylacetyl)hydrazino-1-(2,4-dimethoxybenzyl)benzo[f]quinoxalin-2(1H)-one (1.1 g crude product) and glacial acetic acid (40 ml) was heated under reflux for 12 h. The mixture was evaporated to dryness. The residue was recrystallized from isopropanol to give 400 mg of the title compound m.p. 195°-197° C. 1H-NMR (DMSO-d6): δ 1.18 (t, 6H), 4.08 (quint, 4H), 4.35 (d, 2H), 7.68 (m, 2H), 7.90 (d, 1H), 8.08 (m, 1H), 8.35 (d, 1H), 8.82 (m, 1H), 12.25 (s, 1H).

reactant | 3-(2-diethoxyphosphorylacetyl)hydrazino-1-(2,4-dimethoxybenzyl)benzo[f]quinoxalin-2(1H)-one | 1.1 g | C(C)OP(=O)(OCC)CC(=O)NNC1=NC=2C=CC3=C(C2N(C1=O)CC1=C(C=C(C=C1)OC)OC)C=CC=C3 | C27H31N4O7P
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-[(Diethoxyphosphoryl)methyl]benzo[f]-1,2,4-triazolo[4,3-a]quinoxalin-12(11H)-one | 400 mg | C(C)OP(=O)(OCC)CC1=NN=C2N1C=1C=CC3=C(C1NC2=O)C=CC=C3 | C18H19N4O4P
